US07579368B2
A solution of bromine (0.338 mL, 6.60 mmol) in acetic acid (6 mL) was added dropwise to a mixture of ethyl 2,5-diethoxybenzoate (1.36 mL, 6.02 mmol) and acetic acid (24 mL) cooled in a water bath. After stirring 1 h, more bromine (0.102 mL, 1.99 mmol) was added dropwise to the reaction mixture. After stirring an additional 4 h, the reaction mixture was concentrated under reduced pressure and the residue was purified by flash column chromatography (eluting with 10% diethyl ether in hexanes) to give ethyl 4-bromo-2,5-diethoxybenzoate as an off-white solid (0.610 g, 32%).

reactant | bromine | 6.60 mmol, 0.338 mL | BrBr | Br2
reactant | ethyl 2,5-diethoxybenzoate | 6.02 mmol, 1.36 mL | C(C)OC1=C(C(=O)OCC)C=C(C=C1)OCC | C13H18O4
reactant | bromine | 1.99 mmol, 0.102 mL | BrBr | Br2
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 24 mL | C(C)(=O)O | C2H4O2
product | ethyl 4-bromo-2,5-diethoxybenzoate | 0.610 g, 32% | BrC1=CC(=C(C(=O)OCC)C=C1OCC)OCC | C13H17BrO4
